US04232887
Preparation of 3-(1-ethyl-2-methylindol-3-yl)-3-(1-methyl-2-naphthylindolizin-3-yl)phthalide.
A mixture of 3.0 grams of (1-ethyl-2-methylindol-3-yl) (2-carboxyphenyl)ketone, 2.5 grams of 1-methyl-2-(2-naphthyl) indolizine and 10 ml. of acetic anhydride was heated at 39° C. for about two hours. The resulting solution was cooled and added to a mixture of ice, toluene and ammonia. The toluene layer was separated, dried, treated with charcoal and filtered. Petroleum ether was added and after fractional precipitation a crystalline product was obtained and recrystallized from a toluene-heptane mixture to a constant melting point of 191°-193° C. A chloroform solution of this final product gave a blue color when applied to a record sheet material coated with a zinc-modified phenolic resin.

reactant | (1-ethyl-2-methylindol-3-yl) (2-carboxyphenyl)ketone | 3.0 grams | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C1=C(C=CC=C1)C(=O)O)C | C19H17NO3
reactant | 1-methyl-2-(2-naphthyl) indolizine | 2.5 grams | CC=1C(=CN2C=CC=CC12)C1=CC2=CC=CC=C2C=C1 | C19H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonia | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(1-ethyl-2-methylindol-3-yl)-3-(1-methyl-2-naphthylindolizin-3-yl)phthalide | C(C)N1C(=C(C2=CC=CC=C12)C1(OC(=O)C2=CC=CC=C12)C1=CC(=C2C=CC=CN12)C1=C(C2=CC=CC=C2C=C1)C)C | C38H30N2O2
